US06472531B1
6-Hydroxy-2-(4-hydroxyphenyl)-3-[4-(2-piperidinoethoxy)-benzoyl]benzo[b]thiophene Hydrochloride 1,2-Dichloroethane Solvate (Crystal Form I)
The X-ray structure clearly shows that the crystalline material is a 1,2-dichloroethane solvate having a 1:2 ratio of molecules of 1,2-dichloroethane to molecules of 6-hydroxy-2-(4-hydroxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]-benzo[b]-thiophene hydrochloride.

reactant | 6-hydroxy-2-(4-hydroxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]-benzo[b]-thiophene hydrochloride | Cl.OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCCC2)=O)C2=CC=C(C=C2)O)C1
reactant | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 6-Hydroxy-2-(4-hydroxyphenyl)-3-[4-(2-piperidinoethoxy)-benzoyl]benzo[b]thiophene Hydrochloride 1,2-Dichloroethane | ClCCCl.Cl.OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCCC2)=O)C2=CC=C(C=C2)O)C1 | InChI=1S/C28H27NO4S.C2H4Cl2.ClH/c30-21-8-4-20(5-9-21)28-26(24-13-10-22(31)18-25(24)34-28)27(32)19-6-11-23(12-7-19)33-17-16-29-14-2-1-3-15-29;3-1-2-4;/h4-13,18,30-31H,1-3,14-17H2;1-2H2;1H
